US07820823B2
4-[2-Fluoro-4-{(5R)-5-hydroxymethyl-2-oxo-oxazolidin-3-yl}-phenylamino]-piperidine-1-carboxylic Acid Benzyl Ester
To a solution of 6.6 g (15 mmol) 4-(4-benzyloxycarbonylamino-2-fluoro-phenylamino)-piperidine-1-carboxylic acid benzyl ester in 50 ml THF at −78° C. was added dropwise 12.12 ml nBuli 1.6 M (19.5 mmol). The mixture was further stirred at this temperature for 10 min. The resulting yellow solution was allowed to reach −40° C. over 10 min. 3.0 ml (21 mmol) of (R)-glycidyl butyrate was then added and the solution was allowed to reach slowly RT and further stirred for 16 h. The reaction was quenched with a saturated ammonium chloride solution, diluted with 400 ml of EtOAc. The organic layer was washed with water and brine, dried over MgSO4, filtered and evaporated to dryness. The residue was purified by chromatography using a CH2Cl2/MeOH 5% mixture.

reactant | 4-(4-benzyloxycarbonylamino-2-fluoro-phenylamino)-piperidine-1-carboxylic acid benzyl ester | 15 mmol, 6.6 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)NC1=C(C=C(C=C1)NC(=O)OCC1=CC=CC=C1)F | C27H28FN3O4
reactant | (R)-glycidyl butyrate | 21 mmol, 3.0 ml | C(CCC)(=O)OC[C@H]1CO1 | C7H12O3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-[2-Fluoro-4-{(5R)-5-hydroxymethyl-2-oxo-oxazolidin-3-yl}-phenylamino]-piperidine-1-carboxylic Acid Benzyl Ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)NC1=C(C=C(C=C1)N1C(O[C@H](C1)CO)=O)F | C23H26FN3O5
